US07186724B2
31f: Preparation of 5-methoxymethyl-3-piperidin-4-yl-thieno[2,3-d]isoxazole Hydrochloride:
Stir a solution of 4-(5-methoxymethyl-thieno[2,3-d]isoxazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester (2.21 g, 6.68 mmol, 1.00 equivalents) and hydrochloric acid (1.0 M in diethyl ether, 35 mL) overnight to form a suspension. Add additional hydrochloric acid (1.0 M in diethyl ether, 10 mL). Stir the suspension overnight, filter and wash the solid with ether. Collect the solid and dry to yield the desired product as a dark blue solid. LC/MS (ESI), m/e 253 (MH+), retention time 1.17 minutes. Condition II.

reactant | 4-(5-methoxymethyl-thieno[2,3-d]isoxazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 6.68 mmol, 2.21 g, 1.00 equivalents | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NOC2=C1SC(=C2)COC | C17H24N2O4S
reactant | hydrochloric acid | 1.0 M, 10 mL | Cl | ClH
reactant | hydrochloric acid | 1.0 M, 35 mL | Cl | ClH
product | 5-methoxymethyl-3-piperidin-4-yl-thieno[2,3-d]isoxazole Hydrochloride | Cl.COCC1=CC2=C(C(=NO2)C2CCNCC2)S1 | InChI=1S/C12H16N2O2S.ClH/c1-15-7-9-6-10-12(17-9)11(14-16-10)8-2-4-13-5-3-8;/h6,8,13H,2-5,7H2,1H3;1H
